US05053414
Synthesis of (2RS)-2-[(2S)-1-[3-(N-benzyl-N-methylcarbamoyl)propanoyl]pyrrolidin-2-yl]-2-hydroxyacetic acid benzyl ester
A mixture of (2RS)-2-[(2S)-1-[3-(N-benzyl-N-methlcarbamoyl)propanoyl]pyrrolidin-2-yl]-2-hydroxyacetic acid (134 mg), potassium carbonate (64 mg), benzyl bromide (51 μl) and DMSO (1 ml) was stirred for 1 hr at room temperature. Water was added to the mixture. The mixture was extracted with a mixture of hexane and EtOAc (1:1). The extract was washed, dried and evaporated. The residue was purified by column chromatography on silica gel (hexane-EtOAc) to give the title compound (141 mg) having the following physical data:

reactant | (2RS)-2-[(2S)-1-[3-(N-benzyl-N-methlcarbamoyl)propanoyl]pyrrolidin-2-yl]-2-hydroxyacetic acid | 134 mg | C(C1=CC=CC=C1)N(C(=O)CCC(=O)N1[C@@H](CCC1)C(C(=O)O)O)C | C18H24N2O5
reactant | potassium carbonate | 64 mg | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 51 μl | C(C1=CC=CC=C1)Br | C7H7Br
reactant | DMSO | 1 ml | CS(=O)C | C2H6OS
solvent | Water | O | H2O
product | (2RS)-2-[(2S)-1-[3-(N-benzyl-N-methylcarbamoyl)propanoyl]pyrrolidin-2-yl]-2-hydroxyacetic acid benzyl ester | 141 mg | C(C1=CC=CC=C1)OC(C(O)[C@H]1N(CCC1)C(CCC(N(C)CC1=CC=CC=C1)=O)=O)=O | C25H30N2O5
